US04009129
iii. Comonomer F -- Bis[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]isophthalate
Into a five liter capacity, four-necked flask equipped with a thermometer, stirrer, nitrogen inlet and a 10-inch helix packed column were placed 1322 grams (10 moles) of 2,2-dimethyl-4-hydroxymethyl-1,3-dioxolane (Comonomer A herein), 971 grams (5 moles) of dimethyl isophthalate, 1700 grams of dry toluene and 7 grams of sodium methoxide. The reaction mixture was heated to reflux. During 5 hours, a binary mixture (927 grams) of toluene-methanol was collected at a head temperature of 95°-106° C. by maintaining a flask temperature of 137°-145° C. After cooling to 25° C., 500 ml. of dichloromethane was dissolved in the reaction mixture. The resulting mixture was washed with four 1000 ml. portions of 5 per cent aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, filtered, and evaporated to give a crude amber-colored oil. Distillation of the oil afforded 999.5 grams (51 per cent yield) of substantially pure white product having a boiling point of 205°-212° C. (at 0.50-0.60 mm. pressure). Analysis of the product showed carbon and hydrogen contents of 60.74 and 6.83 weight per cent, respectively. The calculated carbon and hydrogen contents (basis, C20H26O8) are 60.91 and 6.59 respectively.

reactant | 2,2-dimethyl-4-hydroxymethyl-1,3-dioxolane | 10 moles, 1322 grams | CC1(OCC(O1)CO)C | C6H12O3
reactant | dimethyl isophthalate | 5 moles, 971 grams | C(C1=CC(C(=O)OC)=CC=C1)(=O)OC | C10H10O4
reactant | sodium methoxide | 7 grams | C[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | toluene | 1700 grams | C1(=CC=CC=C1)C | C7H8
product | Bis[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]isophthalate | CC1(OCC(O1)COC(C1=CC(C(=O)OCC2OC(OC2)(C)C)=CC=C1)=O)C | C20H26O8
